US06100283
Acetic acid (0.23 ml) was added to a solution of 2,3-diaminobenzoic acid (200 mg, 1.32 mmol) in hydrochloric acid (4M, 3.2 ml) and the mixture was refluxed for 1 hour. Solvents were evaporated and the residual solid was redissolved in boiling methanol (5 ml) and decolorised with activated charcoal. Removal of the solvent furnished 2-methylbenzimidazole-4-carboxylic acid as an amorphous white solid (167.5 mg, 72%); δH (d6 -DMSO) 2.9 (3H, s, imidazole-2-CH3), 7.6-7.8 (1H, t, Ar-5H) 8.1 (2H, d, Ar-4/6H); m/z (EI 176 (M+), 158, 130.

reactant | Acetic acid | 0.23 ml | C(C)(=O)O | C2H4O2
reactant | 2,3-diaminobenzoic acid | 1.32 mmol, 200 mg | NC1=C(C(=O)O)C=CC=C1N | C7H8N2O2
solvent | hydrochloric acid | 4M, 3.2 ml | Cl | ClH
product | 2-methylbenzimidazole-4-carboxylic acid | 167.5 mg, 72% | CC=1NC2=C(N1)C=CC=C2C(=O)O | C9H8N2O2
